US06303637B1
1-N-Benzyl-4-phenyl-4-(3-(2-methoxyphenyl)-3-oxo-2-azaprop-1-yl)piperidine
To a solution of 2.1 g (7.6 mmol) of 1-N-Benzyl-4-phenyl-4-aminomethylpiperidine and 1.2 mL of pyridine (15.2 mmol) and 20 mg of 4-dimethylaminopyridine (DMAP) in 20 mL of methylene chloride was added 2.6 g (15.2 mmol) of o-anisoyl chloride at 0° C. The reaction mixture was stirred for 12 hr and was poured into 200 ml of ether. It was washed with saturated NaHCO3 solution, dried over MgSO4 and concentrated. The residue was purified by chromatography (silica, hexanes: ethyl acetate, 1:4) to afford the title compound.

reactant | 1-N-Benzyl-4-phenyl-4-aminomethylpiperidine | 7.6 mmol, 2.1 g | C(C1=CC=CC=C1)N1CCC(CC1)(CN)C1=CC=CC=C1 | C19H24N2
reactant | pyridine | 15.2 mmol, 1.2 mL | N1=CC=CC=C1 | C5H5N
reactant | o-anisoyl chloride | 15.2 mmol, 2.6 g | C(C=1C(=CC=CC1)OC)(=O)Cl | C8H7ClO2
reactant | ether | 200 ml | CCOCC | C4H10O
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-N-Benzyl-4-phenyl-4-(3-(2-methoxyphenyl)-3-oxo-2-azaprop-1-yl)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)(CNC(=O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C27H30N2O2
